US07560567B2
Preparation of amino[3-chloro-5-(trifluoromethyl)-2-pyridinyl]acetonitrile hydrochloride
15.0 g of [3-chloro-5-(trifluoromethyl)-2-pyridinyl][(diphenylmethylene)amino]acetonitrile (0.037 mol) are stirred at room temperature for 3 h in a mixture of dichloromethane (15 mL) and hydrochloric acid 10% (15 mL). Phases are separated and the organic phase is washed with 15 mL of hydrochloric acid 10%.

reactant | [3-chloro-5-(trifluoromethyl)-2-pyridinyl][(diphenylmethylene)amino]acetonitrile | 0.037 mol, 15.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C(C#N)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C21H13ClF3N3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | hydrochloric acid | 15 mL | Cl | ClH
product | amino[3-chloro-5-(trifluoromethyl)-2-pyridinyl]acetonitrile hydrochloride | Cl.NC(C#N)C1=NC=C(C=C1Cl)C(F)(F)F | InChI=1S/C8H5ClF3N3.ClH/c9-5-1-4(8(10,11)12)3-15-7(5)6(14)2-13;/h1,3,6H,14H2;1H
